US08580957B2
To a solution of (2S,4R)-1-acetyl-6-[1-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-1H-1,2,3-triazol-4-yl]-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see intermediate 44) (100 mg, 0.233 mmol) and 2-bromo pyridine (110 mg, 0.698 mmol) in toluene (2.5 mL) were successively added sodium tert-butoxide (224 mg, 2.328 mmol), tris(dibenzylideneacetone)dipalladium(0) (213 mg, 0.233 mmol) and 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (DavePhos) (183 mg, 0.466 mmol). The resulting mixture was stirred at 100° C. for 2 h then cooled to room temperature and filtered through Celite. The insoluble material was washed with 5% MeOH in DCM and the combined filtrate and washings were concentrated in vacuo. The residue was dissolved in a 1:1 MeOH/DMSO mixture and purified via MDAP (modifier: formic acid). The appropriate fractions were combined and concentrated using a blow down apparatus (45° C.) to give 2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(2-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-1,2,3-triazol-1-yl}ethanol as a colourless oil.

reactant | (2S,4R)-1-acetyl-6-[1-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-1H-1,2,3-triazol-4-yl]-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1N=NN(C1)CCO[Si](C)(C)C(C)(C)C)N)C | C22H35N5O2Si
reactant | 2-bromo pyridine | 0.698 mmol, 110 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | sodium tert-butoxide | 2.328 mmol, 224 mg | CC(C)([O-])C.[Na+]
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.466 mmol, 183 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.233 mmol, 213 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(2-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-1,2,3-triazol-1-yl}ethanol | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1N=NN(C1)CCO)NC1=NC=CC=C1)C | C21H24N6O2
